US05500443
5-{2-[4-(4-Fluorobenzoyl)perhydroazepin-1-yl]ethoxy}-1,4-benzodioxane hydrochloride
A mixture of 5 g of 5-(2-chloroethoxy)-1,4-benzodioxane, 7.8 g of 4-(4-fluorobenzoyl)perhydroazepine hydrobromide (described in Patent EP 389,352), 1 g of potassium iodide and 6.5 g of potassium carbonate in 100 ml of diethyl ketone is maintained at 100 C. for 24 hours. The inorganic salts are then filtered off and the filtrate is concentrated under vacuum. The residue is purified by chromatography on a column of silica, with a dichloromethane/methanol/aqueous ammonia (97/3/0.3) eluent mixture. The base obtained is salified with hydrochloric methanol in an acetone/ether mixture. Melting point: 106°-107° C.

reactant | 5-(2-chloroethoxy)-1,4-benzodioxane | 5 g | ClCCOC1=CC=CC=2OCCOC21 | C10H11ClO3
reactant | 4-(4-fluorobenzoyl)perhydroazepine hydrobromide | 7.8 g | Br.FC1=CC=C(C(=O)C2CCNCCC2)C=C1
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | potassium carbonate | 6.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ketone | 100 ml | C(C)C(=O)CC | C5H10O
solvent | acetone ether | CC(=O)C.CCOCC
solvent | methanol | CO | CH4O
product | 5-{2-[4-(4-Fluorobenzoyl)perhydroazepin-1-yl]ethoxy}-1,4-benzodioxane hydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CCC2)CCOC2=CC=CC=3OCCOC32)C=C1 | InChI=1S/C23H26FNO4.ClH/c24-19-8-6-18(7-9-19)22(26)17-3-2-11-25(12-10-17)13-14-27-20-4-1-5-21-23(20)29-16-15-28-21;/h1,4-9,17H,2-3,10-16H2;1H
